US05523444
In the same apparatus and procedures as EXAMPLE 1, 27 g (255 mmol) of ethylbenzene and 1.1 g (9.0 mmol) of aluminum chloride were placed. The flask was then immersed in an ice water bath. To the reaction mixture was slowly added dropwise 12.0 g (85 mmol) of allyldichlorosilane and the solution was stirred for an hour. After confirming that no ethylbenzene was left by gas chromatography, 2.4 g, (413 mmol) of sodium chloride was added to reaction mixture, warmed up to 50° C. and stirred for two hours to deactivate the catalyst. Vacuum distillation of the reaction products gave 16.3 g (bp 80°-84° C./0.6 mmHg) of 3-(ethylphenyl)-1,1-dichloro-1-silabutane.

reactant | ethylbenzene | 255 mmol, 27 g | C(C)C1=CC=CC=C1 | C8H10
reactant | aluminum chloride | 9.0 mmol, 1.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | allyldichlorosilane | 85 mmol, 12.0 g | C(C=C)[SiH](Cl)Cl | C3H6Cl2Si
reactant | sodium chloride | 413 mmol | [Cl-].[Na+]
product | 3-(ethylphenyl)-1,1-dichloro-1-silabutane | 16.3 g | C(C)C1=C(C=CC=C1)C(C[SiH](Cl)Cl)C | C11H16Cl2Si
